US08633212B2
In a 20 mL vial was placed 6′-bromo-4,4-difluorospiro[cyclohexane-1,2′-inden]-1′(3′H)-one (35 mg, 0.111 mmol), 3-cyanobenzeneboronic acid (23 mg, 0.157 mmol), PdCl2(PPh3)2 (8 mg, 0.011 mmol) and cesium carbonate (91 mg, 0.279 mmol). This solid mixture was dissolved in a Dioxane/water mixture (1.1 mL, 6:1 ratio, respectively). The reaction vial was capped and allowed to stir at 90° C. for 1 hour. At this time, the mixture was filtered through a Celite plug. The plug was rinsed with dichloromethane (5 mL) and water (5 mL). The phases in the filtrate were separated. The aqueous phase was back-extracted with dichloromethane twice (3 mL/each). The combined organic phases were washed with brine, dried over MgSO4, filtered and concentrated under reduce pressure. The crude material was purified by flash chromatography (ISCO, 12 g SiO2 cartridge, ethyl acetate/hexanes as the eluents). The corresponding fractions were combined and concentrated under reduce pressure yielding 3-(4,4-difluoro-1′-oxo-1′,3′-dihydrospiro[cyclohexane-1,2′-indene]-6′-yl)benzonitrile (30 mg, 0.089 mmol, 80% yield) as a white solid.

reactant | 6′-bromo-4,4-difluorospiro[cyclohexane-1,2′-inden]-1′(3′H)-one | 0.111 mmol, 35 mg | BrC1=CC=C2CC3(C(C2=C1)=O)CCC(CC3)(F)F | C14H13BrF2O
reactant | 3-cyanobenzeneboronic acid | 0.157 mmol, 23 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | cesium carbonate | 0.279 mmol, 91 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | Dioxane water | O1CCOCC1.O
catalyst | PdCl2(PPh3)2 | 0.011 mmol, 8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(4,4-difluoro-1′-oxo-1′,3′-dihydrospiro[cyclohexane-1,2′-indene]-6′-yl)benzonitrile | 0.089 mmol, 30 mg, 80% yield | FC1(CCC2(C(C3=CC(=CC=C3C2)C=2C=C(C#N)C=CC2)=O)CC1)F | C21H17F2NO
